US06521643B1
To a suspension of N-(3-(4-methylpyridin-2-yl)phenyl)thiourea (243 mg) in N,N-dimethylformamide (5 ml) were added a solution of hydrogen chloride in 1,4-dioxane (4N, 0.5 ml) and iodoethane (0.4 ml), and the mixture was stirred at 50° C. for 2 hours. Ethyl acetate (100 ml) was added to the mixture, and the mixture was cooled. The precipitate was collected by filtration and dissolved in water. To the solution was added a saturated aqueous sodium hydrogencarbonate solution, and the mixture was extracted with dichloromethane. The organic layer was washed with brine, dried over sodium sulfate and evaporated under reduced pressure. The residue was dissolved in ethyl acetate, and to the solution was added a solution of hydrogen chloride in 1,4-dioxane (4N, 1 ml). The precipitate was collected by filtration and dried under reduced pressure to give N-(3-(4-methylpyridin-2-yl)phenyl)-S-ethylisothiourea dihydrochloride (294 mg).

reactant | N-(3-(4-methylpyridin-2-yl)phenyl)thiourea | 243 mg | CC1=CC(=NC=C1)C=1C=C(C=CC1)NC(=S)N | C13H13N3S
reactant | hydrogen chloride | Cl | ClH
reactant | Ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | 1,4-dioxane | 4N, 0.5 ml | O1CCOCC1 | C4H8O2
solvent | iodoethane | 0.4 ml | ICC | C2H5I
product | N-(3-(4-methylpyridin-2-yl)phenyl)-S-ethylisothiourea dihydrochloride | 294 mg | Cl.Cl.CC1=CC(=NC=C1)C=1C=C(C=CC1)NC(SCC)=N | InChI=1S/C15H17N3S.2ClH/c1-3-19-15(16)18-13-6-4-5-12(10-13)14-9-11(2)7-8-17-14;;/h4-10H,3H2,1-2H3,(H2,16,18);2*1H
